US06518423B1
8-(Imidazo[1,2-a]pyridin-3-yl)-10H-pyrazino[2,3-b][1,41-benzothiazine
10 ml of a solution of 200 mg of [N-(2-pyridyl)aminometyl](10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)ketone in carbon tetrachloride was stirred at room temperature and 240 mg of thionyl chloride was dropped thereinto. The reaction mixture was distributed into dichloromethane and an aqueous solution of sodium bicarbonate and the organic layer was separated. To the organic layer were added methanol and tetrahydrofuran to give a homogeneous solution. After adding silica gel and distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 103 mg of the title compound as yellow crystals.

reactant | [N-(2-pyridyl)aminometyl](10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)ketone | 200 mg | N1=C(C=CC=C1)NCC(=O)C=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C19H17N5O2S
reactant | thionyl chloride | 240 mg | S(=O)(Cl)Cl | Cl2OS
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 8-(Imidazo[1,2-a]pyridin-3-yl)-10H-pyrazino[2,3-b][1,41-benzothiazine | 103 mg | N=1C=C(N2C1C=CC=C2)C=2C=CC1=C(NC3=C(S1)N=CC=N3)C2 | C17H11N5S
